US04065617
A. 3,5-dibenzylidene-1-(2-phenylethyl)-4-piperidone, monohydrochloride
Twenty-five grams of 1-(2-phenylethyl)-4-piperidone and 38 g of benzaldehyde are reacted in 180 ml of ethanol in the presence of 40 ml of concentrated hydrochloric acid at reflux temperature for about 5 hours and left at room temperature for about 16 hours yielding 25.5 g of material, melting point 217°-220° C, dec. Crystallization from 50 ml of hot dimethylformamide and 100 ml of acetonitrile yields 22 g of the title compound, melting point 225°-227° C, dec.

reactant | 1-(2-phenylethyl)-4-piperidone | Twenty-five grams | C1(=CC=CC=C1)CCN1CCC(CC1)=O | C13H17NO
reactant | benzaldehyde | 38 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | hydrochloric acid | 40 ml | Cl | ClH
solvent | ethanol | 180 ml | C(C)O | C2H6O
product | 3,5-dibenzylidene-1-(2-phenylethyl)-4-piperidone, monohydrochloride | 25.5 g | Cl.C(C1=CC=CC=C1)=C1CN(CC(C1=O)=CC1=CC=CC=C1)CCC1=CC=CC=C1 | InChI=1S/C27H25NO.ClH/c29-27-25(18-23-12-6-2-7-13-23)20-28(17-16-22-10-4-1-5-11-22)21-26(27)19-24-14-8-3-9-15-24;/h1-15,18-19H,16-17,20-21H2;1H
